US09029544B2
(3R,9S)-9-(tert-Butyldimethylsilyloxy)-7,7-dimethyl-4-(1-methylcyclopropyl)-3-(4-(trifluoromethyl)phenyl)-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]
536 μl Diethylzinc (1 M in n-hexane) are dissolved in 5 ml dichloromethane, cooled to 0° C. and treated dropwise with a solution of 41 μl trifluoroacetic acid in 5 ml dichloromethane. The mixture is stirred for 20 minutes and then 41 μl diiodomethane in 2.5 ml dichloromethane are added dropwise. After stirring for further 20 minutes a solution of 150 mg (3R,9S)-9-(tert-butyldimethylsilyloxy)-7,7-dimethyl-4-(prop-1-en-2-yl)-3-(4-(trifluoromethyl)phenyl)-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran] in 2.5 ml dichloromethane are added dropwise. The mixture is then allowed to warm to room temperature and is stirred for 4 hours. Then it is partitioned between saturated solution of sodium bicarbonate in water and dichloromethane. The aqueous phase is twice extracted with dichloromethane. The combined organic phases are dried with sodium sulphate and the solvents are evaporated in vacuo. The residue is chromatographed on silica gel (petrole ether/ethylacetate 100:0 to 85:15).

reactant | Diethylzinc | 1 M, 536 μl | C(C)[Zn]CC
reactant | trifluoroacetic acid | 41 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | diiodomethane | 41 μl | ICI | CH2I2
reactant | (3R,9S)-9-(tert-butyldimethylsilyloxy)-7,7-dimethyl-4-(prop-1-en-2-yl)-3-(4-(trifluoromethyl)phenyl)-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran] | 150 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C3=C(C(=NC2CC(C1)(C)C)C(=C)C)[C@H](OC31CCOCC1)C1=CC=C(C=C1)C(F)(F)F | C33H44F3NO3Si
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2.5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2.5 ml | ClCCl | CH2Cl2
product | (3R,9S)-9-(tert-Butyldimethylsilyloxy)-7,7-dimethyl-4-(1-methylcyclopropyl)-3-(4-(trifluoromethyl)phenyl)-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran] | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C3=C(C(=NC2CC(C1)(C)C)C1(CC1)C)[C@H](OC31CCOCC1)C1=CC=C(C=C1)C(F)(F)F | C34H46F3NO3Si
